US04849422
Operation was carried out in a manner similar to the one previously described, using 2-chloropyridine and 1-(2,3-dihydroxypropyl) piperazine. The residue obtained after evaporation to dryness was dissolved in a small amount of concentrated hydrochloric acid and diluted with isopropanol. After resting, 3-[4-(pyridin-2-yl) piperazin-1-yl]propane-1,2-diol dihydrochloride melting at 238°-242° C., was obtained with the 53.6% yield.

reactant | 2-chloropyridine | ClC1=NC=CC=C1 | C5H4ClN
reactant | 1-(2,3-dihydroxypropyl) piperazine | OC(CN1CCNCC1)CO | C7H16N2O2
product | 3-[4-(pyridin-2-yl) piperazin-1-yl]propane-1,2-diol dihydrochloride | 53.6% yield | Cl.Cl.N1=C(C=CC=C1)N1CCN(CC1)CC(CO)O | InChI=1S/C12H19N3O2.2ClH/c16-10-11(17)9-14-5-7-15(8-6-14)12-3-1-2-4-13-12;;/h1-4,11,16-17H,5-10H2;2*1H
